US08039480B2
At approx. 5° C. (ice bath cooling), 8.2 ml of thionyl chloride (112.6 mmol; 1.5 eq.) were added dropwise to 100 ml of methanol (p.a.) under argon. The mixture was allowed to come to RT within 30 min and stirred for a further 30 min. 19.0 g of (S)-2-tert-butoxycarbonylamino-4,4-difluoropentanoic acid (75.0 mmol) were added in portions to this reaction mixture. The reaction mixture was stirred at RT for 2 h. Thereafter, the reaction mixture was warmed to 35° C. (internal temperature) and stirred at this temperature for another 3 h. Subsequently, the mixture was concentrated under reduced pressure, which afforded methyl (S)-2-amino-4,4-difluoropentanoate hydrochloride as a slightly brownish crystalline solid which was clean enough for further reactions. Yield: 13.5 g (89% of theory).

reactant | thionyl chloride | 112.6 mmol, 8.2 ml, 1.5 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-2-tert-butoxycarbonylamino-4,4-difluoropentanoic acid | 75.0 mmol, 19.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC(C)(F)F | C10H17F2NO4
reactant | methanol | 100 ml | CO | CH4O
product | methyl (S)-2-amino-4,4-difluoropentanoate hydrochloride | Cl.N[C@H](C(=O)OC)CC(C)(F)F | InChI=1S/C6H11F2NO2.ClH/c1-6(7,8)3-4(9)5(10)11-2;/h4H,3,9H2,1-2H3;1H/t4-;/m0./s1
